US05367041
4-(3-Thienyl)-Butyl Methanesulfonate
To a solution of 1.05 g (6.7×10-3 mol) of 4-(3-thienyl)-butanol in 25 ml of dry, freshly distilled pyridine was added 0.85 g (1.1 equiv.) of methane-sulfonyl chloride at 25° C. The addition was gradual and carried out over a several minute period. The reaction mixture was stirred for 6 hr at room temperature and quenched by pouring into a separtory funnel containing water-HCl and ether. The layers were separated and the aqueous layer was extracted once with 10% hydrochloric acid, followed by extraction with water and drying with Na2SO4. Evaporation of the solvent afforded 1.51 g of a light brown oil (95% yield), tlc (CHCl3) showed a single spot. El. Anal. Calcd. for C9H14O3S2 : C, 46.13; H, 6.02; S, 27.36. Found: C, 45.92; H, 5.94; S, 27.15. Nmr (CDCl3, δ rel TMS) 2.0-1.5 brs, 4 H; 2.67 brt, 2 H; 2.97 s, 3 H; 4.22 t, 2 H; 7.07-6.80 d, 2 H; 7.37-7.13, 1 H.

reactant | 4-(3-thienyl)-butanol | 6.7×10-3 mol, 1.05 g | S1C=C(C=C1)CCCCO | C8H12OS
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | methane-sulfonyl chloride | 0.85 g, 1.1 equiv. | CS(=O)(=O)Cl | CH3ClO2S
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | 4-(3-Thienyl)-Butyl Methanesulfonate | 1.51 g, 95% yield | CS(=O)(=O)OCCCCC1=CSC=C1 | C9H14O3S2
